US04224326
PREPARATION OF 2-(p-PENTAFLUOROETHOXYPHENYL)-1H-PERIMIDINE HYDROCHLORIDE
1,8-Diaminonaphthalene (1.04 grams; 0.00656 mole) and p-pentafluoroethoxybenzoyl chloride (1.8 grams; 0.00656 mole) were reacted in the procedures of Example 3, yielding 2.25 grams of product (82.7% yield), m.p., 240° C. (dec.), mass spectrum m/e 378.

reactant | 1,8-Diaminonaphthalene | 0.00656 mole, 1.04 grams | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | p-pentafluoroethoxybenzoyl chloride | 0.00656 mole, 1.8 grams | FC(C(F)(F)F)(OC1=CC=C(C(=O)Cl)C=C1)F | C9H4ClF5O2
product | 2-(p-PENTAFLUOROETHOXYPHENYL)-1H-PERIMIDINE HYDROCHLORIDE | 2.25 grams, 82.7% yield | Cl.FC(C(F)(F)F)(OC1=CC=C(C=C1)C=1NC=2C=CC=C3C=CC=C(N1)C23)F | InChI=1S/C19H11F5N2O.ClH/c20-18(21,22)19(23,24)27-13-9-7-12(8-10-13)17-25-14-5-1-3-11-4-2-6-15(26-17)16(11)14;/h1-10H,(H,25,26);1H
